Spice Parameter
Semiconductor Company, Panasonic Corporation
Product No. DZ2J036
Device Type : Zener Diode
Date : 2009/09/28

*DEVICE=DZ2J036,D
* DZ2J036 D model
*$
.SUBCKT DZ2J036 A K
D1 A K DF
DZ K 1 DR
V1 1 A 0.002
.MODEL DF D
+ IS=1.1088E-15
+ N=1.0540
+ RS=0.13093
+ IKF=0.22142
+ CJO=44.714E-12
+ M=0.53585
+ VJ=1.3823
+ BV=4.0
+ IBV=0.005
+ NBV=6
+ TBV1=0.2u
+ EG=1.11
.MODEL DR D 
+ IS=615.22E-12
+ N=6.3973
+ RS=43.093
+ IKF=18.567E-6
+ XTI=25
+ EG=1.11
.ENDS
*$
*Applicable at 25 degree celsius only
